US09284333B2
To a solution of 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide (Comp. No. 10a) (9.8 g, 22.8 mmol) in tetrahydrofuran (160 ml) was added water (160 ml) and sodium hydroxide (4.5 g, 114 mmol) and the mixture was stirred at reflux until complete conversion according to LC/MS (ca. 60 min). Approximately half of the solvents were evaporated in vacuo and the mixture was acidified with excess hydrochloric acid. The forming precipitate was filtered off, washed once with water and dried in vacuo to give 6.29 g (84%) of 8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid as white solid. LC/MS (method 4): Rt=1.14 min; m/z=329.26 (M+H+).

reactant | 6-(2,2,2-trichloro-acetyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(C(Cl)(Cl)Cl)=O | C19H19Cl3N2O3
reactant | water | 160 ml | O | H2O
reactant | sodium hydroxide | 114 mmol, 4.5 g | [OH-].[Na+]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid | 6.29 g, 84% | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)O | C18H20N2O4
